US08466181B2
6-(4-(4-(2-Chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide
To a solution of 6-(4-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (74 mg, 0.194 mmol) in DMF (3 mL) was added CDI (38 mg, 0.233 mmol) and the resulting mixture stirred at 60° C. for 1 h. After cooling to room temperature ammonium hydroxide (305 μL, 1.94 mmol) was added and reaction mixture was stirred for 1 h and then evaporated. Purification by chromatography (reverse phase HPLC) afforded the title compound (54 mg, 73%) as a white foam. MS: m/e=380.1 [M+H]+.

reactant | 6-(4-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.194 mmol, 74 mg | ClC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13ClN6O2
reactant | CDI | 0.233 mmol, 38 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium hydroxide | 1.94 mmol, 305 μL | [OH-].[NH4+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(4-(4-(2-Chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide | 54 mg, 73% | ClC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)N)C=C1)C | C18H14ClN7O
